US07737141B2
Synthesis of (R)-5-(4-chlorophenyl)-3,4-dihydro-2H-pyrrole-2-carboxylic acid ethyl ester
A 4 N hydrochloric acid-ethyl acetate solution (30 mL) was dropwise added to an ethyl acetate solution (30 mL) of (R)-2-tert-butoxycarbonylamino-5-(4-chlorophenyl)-5-oxopentanoic acid ethyl ester (5.6 g) at room temperature. The resulting reaction solution was stirred at room temperature for 2 hr and concentrated under reduced pressure to give 5.0 g of a yellow oily substance. To an ethyl acetate solution (100 mL) of this crude product, a saturated sodium hydrogencarbonate aqueous solution (100 mL) was dropwise added. The resulting reaction solution was stirred at room temperature for 20 min and then extracted with ethyl acetate. The extract solution was washed with saturated saline, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give 3.5 g of the title compound as a light yellow oily substance. The physical property values of this compound were as follows:

reactant | hydrochloric acid ethyl acetate | 4 N, 30 mL | Cl.C(C)(=O)OCC
reactant | (R)-2-tert-butoxycarbonylamino-5-(4-chlorophenyl)-5-oxopentanoic acid ethyl ester | 5.6 g | C(C)OC([C@@H](CCC(=O)C1=CC=C(C=C1)Cl)NC(=O)OC(C)(C)C)=O | C18H24ClNO5
reactant | sodium hydrogencarbonate | 100 mL | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | (R)-5-(4-chlorophenyl)-3,4-dihydro-2H-pyrrole-2-carboxylic acid ethyl ester | 3.5 g | C(C)OC(=O)[C@@H]1N=C(CC1)C1=CC=C(C=C1)Cl | C13H14ClNO2
